US09029560B2
Preparation of 1-(5-methyl-2-propylphenyl)thiourea (CA38)
To N-((5-methyl-2-propylphenyl)carbamothioyl)benzamide (C72) (3.21 g, 10.3 mmol) in methanol (80 mL) was added sodium hydroxide (2 N, 10.3 mL, 20.5 mmol) and heated at 50° C. for 2 hours and then stirred at room temperature over the weekend. The reaction was concentrated, diluted with water, extracted with dichloromethane, filtered through a phase separator, concentrated, and dried in a vacuum oven to provide the title compound as a tan solid (1.80 g, 83%): mp 143-145° C.; 1H NMR (400 MHz, CDCl3) δ 7.84 (s, 1H), 7.20 (d, J=7.8 Hz, 1H), 7.12 (dd, J=7.8, 1.2 Hz, 1H), 7.04 (s, 1H), 5.99 (d, J=254.5 Hz, 2H), 2.57 (d, J=7.5 Hz, 2H), 2.33 (s, 3H), 1.59 (dq, J=14.8, 7.4 Hz, 2H), 0.95 (t, J=7.3 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 181.96, 137.53, 136.74, 134.00, 130.69, 129.72, 127.85, 32.90, 23.66, 20.80, 13.93; ESIMS m/z 209 ([M+H]+).

reactant | N-((5-methyl-2-propylphenyl)carbamothioyl)benzamide | 10.3 mmol, 3.21 g | CC=1C=CC(=C(C1)NC(=S)NC(C1=CC=CC=C1)=O)CCC | C18H20N2OS
reactant | sodium hydroxide | 20.5 mmol, 2 N, 10.3 mL | [OH-].[Na+]
solvent | methanol | 80 mL | CO | CH4O
product | 1-(5-methyl-2-propylphenyl)thiourea | 1.80 g, 83% | CC=1C=CC(=C(C1)NC(=S)N)CCC | C11H16N2S
